* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt LTC6373 1 2 3 4 5 6 7 8 9 10 11 12 13
A1 2 DGND COM COM COM COM A0i COM SCHMITT Vt=1.05 Vh=450m Trise=100n
A2 3 DGND COM COM COM COM A1i COM SCHMITT Vt=1.05 Vh=450m Trise=100n
A3 11 DGND COM COM COM COM A2i COM SCHMITT Vt=1.05 Vh=450m Trise=100n
C1 GainInd COM {Cbuf_1k} Rpar=1k Noiseless
G1 COM GainInd A0i COM 1m
A4 A2i A1i COM COM A0i _SHDN COM COM AND Trise=10n
G2 COM GainInd A1i COM 2m
G3 COM GainInd A2i COM 4m
D1 11 COM DPININ
D2 3 COM DPININ
D3 2 COM DPININ
S1 A2INN N008 COM GainInd SWRG1
S2 A2INN N008 COM GainInd SWRG2
S3 A2INN N008 COM GainInd SWRG3
S4 A2INN N008 COM GainInd SWRG4
S5 N008 A1INN COM GainInd SWRG1
S6 N008 A1INN COM GainInd SWRG2
S7 N008 A1INN COM GainInd SWRG3
S8 N008 A1INN COM GainInd SWRG4
S9 A1INN A1OUT GainInd COM SWRF1
S10 A1INN A1OUT GainInd COM SWRF2
S11 A1INN A1OUT GainInd COM SWRF3
S12 A1INN A1OUT GainInd COM SWRF4
C2 A1OUT A1INN 5p Rpar=1.875k Noiseless
S13 A2OUT A2INN GainInd COM SWRF1
S14 A2OUT A2INN GainInd COM SWRF2
S15 A2OUT A2INN GainInd COM SWRF3
S16 A2OUT A2INN GainInd COM SWRF4
S17 A3INP A1OUT COM GainInd SWRI1
S18 A3INP A1OUT COM GainInd SWRI2
S19 A3INN A2OUT COM GainInd SWRI1
S20 A3INN A2OUT COM GainInd SWRI2
S21 6 A3INN GainInd COM SWRO2
S22 6 A3INN GainInd COM SWRO1
S23 7 A3INP GainInd COM SWRO2
S24 7 A3INP GainInd COM SWRO1
R14 N008 9 250 Noiseless
C3 A3INP A1OUT 1p Rpar=3.19995k Noiseless
C4 7 A3INP 1p
C5 A3INN A2OUT 1p Rpar=3.19995k Noiseless
C6 A2INN A2OUT 5p Rpar=1.875k Noiseless
A5 4 13 COM COM COM COM N019 COM SCHMITT Vt={Vsmin-0.45} Trise=10n
A6 5 13 COM COM COM N017 COM COM SCHMITT Vt={Vsmax} Trise=10n Vh=0
A7 4 13 COM COM COM N014 COM COM SCHMITT Vt={Vsmax} Trise=10n Vh=0
A8 N014 N017 N019 COM _SHDN COM EN COM AND Trise={2*ENTon} Tfall={2*ENToff}
C7 8 13 1p Rpar=4.6Meg Noiseless
R15 COM ComAdj 1Meg Noiseless
C8 ComAdj COM 31.8n
G4 0 Vcc_Int 4 0 1k
G5 0 Vee_Int 13 0 1k
R16 Vcc_Int 0 1m Noiseless
R17 Vee_Int 0 1m Noiseless
C9 Vcc_Int 0 1µ
C10 Vee_Int 0 1µ
B1 COM ComSense I=1m*((V(6)+V(7))/2) Rpar=1k Cpar=1p
Biq1 4 13 I=IF(V(EN,COM)>0.5, {Iq_on},{Iq_off})
R18 7 A3INP 2k Noiseless
C11 6 A3INN 1p
R19 6 A3INN 2k Noiseless
G6 COM N024 Vocmin COM 1.0005m
C12 5 8 1p Rpar=4.6Meg Noiseless
C13 10 13 1p Rpar=2.5Meg Noiseless
C14 10 4 1p Rpar=2.5Meg Noiseless
R20 N015 Vcc_Int 1Meg Noiseless
R21 N015 Vee_Int 1Meg Noiseless
C15 N015 0 1
C16 COM 0 1n
E1 COM 0 N015 0 1
R22 COM 0 1Meg Noiseless
G7 0 DGND 10 0 1m
C17 DGND 0 1p Rpar=1k Noiseless
G8 COM Vocmin 8 0 1m
C18 Vocmin COM {Cbuf_1k} Rpar=1k Noiseless
C19 EN COM 10p Rpar=1G
C20 _SHDN COM 10p Rpar=1G
R23 A1INN N008 2k Noiseless
R24 N008 A2INN 2k Noiseless
C21 N017 COM 10p Rpar=1G
C22 N019 COM 10p Rpar=1G
C23 N014 COM 10p Rpar=1G
I1 10 COM 4µ
G9 COM ComAdj N024 ComSense 1
C24 A1INN N008 1p
C25 N008 A2INN 1p
C26 A2i COM 10p Rpar=1G
C27 A1i COM 10p Rpar=1G
C28 A0i COM 10p Rpar=1G
C29 N024 COM {Cbuf_1k}
R25 N024 COM 1k Noiseless
I2 1 COM {Ib- Ios}
Cinp1 COM 12 {Ccm}
R26 Aol1a COM 1Meg Noiseless
A9 A1INN N025 EN COM COM COM Aol1a COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R27 N026 COM 1Meg Noiseless
C31 N026 COM {Cfp4}
G10 COM N026 Aol3a COM 1µ
G11 COM N025 12 COM 1m
C32 N025 COM {Cbuf_1k}
G12 12 COM I_np COM 1
R28 N030 COM 100k Noiseless
G13 COM I_np N030 COM 1
RI_np1 I_np COM 1 Noiseless
A10 COM COM COM COM COM COM N030 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={I_n} Enk={I_nk}
C33 I_np COM 159p
R29 COM 12 {Rcm} Noiseless
R30 A1INN COM {Rcm} Noiseless
S25 COM N025 EN COM ENI
C34 Aol1a COM {Cbuf_1Meg}
I3 12 COM {Ib}
Cinp2 COM 1 {Ccm}
R31 Aol1b COM 1Meg Noiseless
A11 A2INN N033 EN COM COM COM Aol1b COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R32 N034 COM 1Meg Noiseless
C35 N034 COM {Cfp4}
G14 COM N034 Aol3b COM 1µ
G15 COM N033 1 COM 1m
C36 N033 COM {Cbuf_1k}
G16 1 COM I_nn COM 1
R33 N040 COM 100k Noiseless
G17 COM I_nn N040 COM 1
RI_nn1 I_nn COM 1 Noiseless
C37 I_nn COM 159p
A12 COM COM COM COM COM COM N040 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={I_n} Enk={I_nk}
R34 COM 1 {Rcm} Noiseless
R35 A2INN COM {Rcm} Noiseless
S26 COM N033 EN COM ENI
C38 Aol1b COM {Cbuf_1Meg}
Cinp3 COM N046 {Ccmp_out}
Cinn3 N050 COM {Ccmn_out}
Cdiff3 N046 N050 {Cdiff_out}
R36 A3INPB COM 1m Noiseless
C39 A3INPB COM {Cbuf_1m}
G19 COM A3INPB N046 COM 1k
A13 N050 N044 EN COM COM COM Aol1_out COM OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R37 N047 COM 1Meg Noiseless
G20 COM N047 Clamp_out COM 1µ
C40 N047 COM {Cfp2_out}
R38 N049 COM 1Meg Noiseless
G21 COM N049 N048 COM 1µ
R39 N048 COM 1Meg Noiseless
G22 COM N048 N047 COM 1µ
C41 N048 COM {Cfp3_out}
C42 N049 COM {Cfp4_out}
R41 Aol1_out COM 1Meg Noiseless
R42 Aol_m_out COM 1Meg Noiseless
G23 COM Aol_m_out N049 COM 1µ
C43 Aol1_out COM {Cbuf_1Meg}
C44 Aol_m_out COM {Cbuf_1Meg}
DGP1 N031 Clamp_out DG
DGN1 Clamp_out N032 DG
G24 COM N031 GRpi COM 1k
G25 COM N032 GRni COM 1k
R43 N031 COM 1m Noiseless
R44 N032 COM 1m Noiseless
R45 GRpi COM 1k Noiseless
R46 GRni COM 1k Noiseless
C45 Clamp_out N031 1f
C46 Clamp_out N032 1f
IGRp1 COM GRpi {1m*GR}
IGRn1 GRni COM {1m*GR}
DOP1 Satp 6 DO
DON1 6 Satn DO
C50 Satn 13 1n
C51 Satp 4 1n
DOP2 Satp 7 DO
DON2 7 Satn DO
R49 Satp 4 1m
R50 Satn 13 1m
C56 GRpi COM 1f
C57 N031 COM 1f
C58 N032 COM 1f
C59 GRni COM 1f
B5 COM Zo_inP I=1m*(V(Aol_m_out,COM)+ V(ComAdj,COM)) Rpar=1k
B6 COM Zo_inN I=1m*V(ComAdj, Aol_m_out) Rpar=1k
A14 COM COM EN COM COM COM N020 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=V(fA,COM)/(freq**V(M,COM))
R51 N020 COM 100k Noiseless
A15 COM N020 EN COM COM COM E_n COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=V(BB,COM)
B7 COM BB I=1m*Table(V(GainInd,COM), 0, 128n, 1, 66.7n, 2, 38n, 3, 24.4n, 4, 18.7n, 5, 17.55n, 6, 16.36n) Rpar=1k Cpar={Csw}
B8 COM fC I=1m*Table(V(GainInd,COM), 0, 130, 1, 170, 2, 80, 3, 80, 4, 55, 5, 70, 6, 65) Rpar=1k Cpar={Csw}
B9 COM M I=1m*Table(V(GainInd,COM), 0, 0.53, 1, 0.5, 2, 0.58, 3, 0.58, 4, 0.6, 5, 0.54, 6, 0.53) Rpar=1k Cpar={Csw}
B10 COM fA I=1m*V(BB,COM)*(V(fC,COM)**V(M,COM)) Rpar=1k Cpar={Csw}
R52 E_n COM 100k Noiseless
I4 N043 N044 16.91n
R53 N044 N043 1k Noiseless
R54 N043 N042 1k Noiseless
G27 N042 N043 E_n COM 0.5m
C60 CMR N039 {C1a_CMR}
G28 COM N039 12 COM {G1_CMR}
R55 N039 COM 1 Noiseless
R57 CMR N039 {R1a_CMR} Noiseless
R58 CMR COM {R2a_CMR} Noiseless
R59 N042 N041 1k Noiseless
G29 N041 N042 CMR COM 0.5m
C61 PSRn N052 {C1a_PSRn}
G30 COM N052 13 COM {G1_PSRn}
R60 N052 COM 1 Noiseless
R61 PSRn N052 {R1a_PSRn} Noiseless
R63 PSRn COM {R2a_PSRn} Noiseless
C62 PSRp N038 {C1a_PSRp}
G31 COM N038 4 COM {G1_PSRp}
R64 N038 COM 1 Noiseless
R65 PSRp N038 {R1a_PSRp} Noiseless
R66 PSRp COM {R2a_PSRp} Noiseless
R67 N041 A3INPB 1k Noiseless
G32 A3INPB N041 PSRp PSRn 0.5m
R68 N046 A3INP 1 Noiseless
R69 N050 A3INN 1 Noiseless
C63 6 COM 3f
C64 COM 7 3f
G33 COM Clampa Aol1a COM {Aol2/1Meg}
R70 Clampa COM 1Meg Noiseless
G34 COM Clampb Aol1b COM {Aol2/1Meg}
R71 Clampb COM 1Meg Noiseless
G36 COM A2OUT N034 COM {1/Zo_dc}
R74 A2OUT COM {Zo_dc}
G37 COM A1OUT N026 COM {1/Zo_dc}
R75 A1OUT COM {Zo_dc}
G40 COM Aol2b Clampb COM 1µ
R76 Aol2b COM 1Meg Noiseless
G41 COM Aol2a Clampa COM 1µ
R77 Aol2a COM 1Meg Noiseless
G42 COM Aol3a Aol2a COM 1µ
R78 Aol3a COM 1Meg Noiseless
G43 COM Aol3b Aol2b COM 1µ
R79 Aol3b COM 1Meg Noiseless
R80 Clamp_out COM 1Meg Noiseless
B11 COM Clamp_out I=Uplim(Dnlim(V(Aol1_out,COM)* V(G2_Aol2,COM), -V(SR_Aol2,COM),1m), V(SR_Aol2,COM),1m)
R81 N029 COM 1m
R82 N037 COM 1m
B12 COM G2_Aol2 I=1m*Table(V(GainInd,COM), 2, 0.88, 3, 0.7, 4, 0.75, 5, 0.62, 6, 1.75) Rpar=1k Cpar={Csw}
C70 Clamp_out N051 Q=x*Table(V(GainInd,COM), 2, 2.3u, 3, 1.36u, 4, 1.71u, 5, 1.23u, 6, 4.2u, 7, 4.4u)
C30 Clampa N027 Q=x*Table(V(GainInd,COM), 0, {C0}, 1, {C1}, 2, {C2}, 3, {C3}, 4, {C4}, 5, {C5}, 6, {C6})
C66 Aol2a N028 Q=x*Table(V(GainInd,COM), 0, 4.8f, 1, 19f, 2, 22f, 3, 25f, 4, {Cx2}, 5, 12f, 6, 8f)
C68 Aol3a N029 Q=x*Table(V(GainInd,COM), 0, 0.5f, 1, 15f, 2, 22f, 3, 16f, 4, {Cx3})
C69 Aol3b N037 Q=x*Table(V(GainInd,COM), 0, 0.5f, 1, 15f, 2, 22f, 3, 16f, 4, {Cx3})
C65 Clampb N035 Q=x*Table(V(GainInd,COM), 0, {C0}, 1, {C1}, 2, {C2}, 3, {C3}, 4, {C4}, 5, {C5}, 6, {C6})
Rx1 7 N053 {Rx_Zo_out} Noiseless
Rdummy1 7 COM {Rdummy_Zo_out} Noiseless
R1 N053 COM 1 Noiseless
B13 COM N053 I=Uplim(Dnlim({G1_Zo_out}* V(Zo_inN,7), {-Izop}, 25m), {-Izon}, 25m)
Rx2 6 N045 {Rx_Zo_out} Noiseless
Rdummy2 6 COM {Rdummy_Zo_out} Noiseless
R2 N045 COM 1 Noiseless
B14 COM N045 I=Uplim(Dnlim({G1_Zo_out}* V(Zo_inP,6), {Izon}, 25m), {Izop}, 25m)
B4 COM SR_Aol2 I=1m*Table(V(GainInd,COM), 2,16.7, 3, 12, 4, 13, 5, 15.5, 6, 31) Rpar=1k Cpar={Csw}
R3 N027 COM 1m
R5 N028 COM 1m
R6 N036 COM 1m
R7 N035 COM 1m
R8 N051 COM 1m
C67 Aol2b N036 Q=x*Table(V(GainInd,COM), 0, 4.8f, 1, 19f, 2, 22f, 3, 25f, 4, {Cx2}, 5, 12f, 6, 8f)
C52 Satp 7 1f
C53 Satn 7 1f
C54 6 Satp 1f
C71 6 Satn 1f
C47 1 A2INN {Cdiff}
C48 12 A1INN {Cdiff}
B17 COM SatM I=1m*(V(Vs,COM)*{Msat}+{Bsat}) Rpar=1k Cpar=1n
G18 COM Vs 4 13 1m
C72 Vs COM 10p Rpar=1k Noiseless
B2 Satp 4 I=1k*V(SatM,COM)
B3 13 Satn I=1k*V(SatM,COM)
.model SWRG1 SW(Ron=2k Roff=10G Vt=-3.5 Vh=-100m Noiseless)
.model SWRG2 SW(Ron=1k Roff=10G Vt=-2.5 Vh=-100m Noiseless)
.model SWRG3 SW(Ron=500 Roff=10G Vt=-1.5 Vh=-100m Noiseless)
.model SWRG4 SW(Ron=250 Roff=10G Vt=-500m Vh=-100m Noiseless)
.model SWRF1 SW(Ron=26.25k Roff=10G Vt=500m Vh=-100m Noiseless)
.model SWRF2 SW(Ron=10.5k Roff=10G Vt=1.5 Vh=-100m Noiseless)
.model SWRF3 SW(Ron=3k Roff=10G Vt=2.5 Vh=-100m Noiseless)
.model SWRF4 SW(Ron=.01 Roff=10G Vt=3.5 Vh=-100m Noiseless)
.model SWRI1 SW(Ron=16k Roff=10G Vt=-5.5 Vh=-100m Noiseless)
.model SWRI2 SW(Ron=8k Roff=10G Vt=-4.5 Vh=-100m Noiseless)
.model SWRO1 SW(Ron=4k Roff=10G Vt=4.5 Vh=-100m Noiseless)
.model SWRO2 SW(Ron=2k Roff=10G Vt=5.5 Vh=-100m Noiseless)
.model D D()
.model DPININ D(Roff=100Meg Ron=216k Vfwd= 2.8 Epsilon=500m Noiseless Ilimit=8u)
.model DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless )
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model PD D(Ron=0.5 Epsilon=0.1 Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.model ENI SW(Ron=1k Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.param FpBuf=10G
.param Cbuf_1m={1/(2*pi*1m*FpBuf)}
.param Cbuf_1={1/(2*pi*1*FpBuf)}
.param Cbuf_1k={1/(2*pi*1k*FpBuf)}
.param Cbuf_1Meg={1/(2*pi*1Meg*FpBuf)}
.param Iq_on=4.4m Iq_off=211u
.param Vsmin=9 Vsmax=36
.param ENTon=9u ENToff=6u
.param Ib=2p Ios=2p
.param I_n=1f I_nk=48
.param Iscp=35.5m Iscn=-42.5m
.param IZop={Rx_Zo_out*Iscp} IZon={Rx_Zo_out*Iscn}
.param Csw=2p
.param Aol_PB=148
.param fp4=5G
.param Rser=1m Rcm=5T Rdiff=5T
.param Ccm=15p Cdiff=2p
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp4={1 / (2 * pi * fp4 * 1Meg)}
.param Zo_dc=1k
.param Zo_max={Zo_dc}
.param SRp=6.23 SRn={-SRp} ;12.45
.param fp2_out=8.5Meg fp3_out=25Meg fp4_out=250Meg
.param Rser_out=1m
.param Ccmp_out=1p Ccmn_out=1p
.param Cdiff_out=1p
.param Cfp2_out={1 / (2 * pi * fp2_out * 1Meg)}
.param Cfp3_out={1 / (2 * pi * fp3_out * 1Meg)}
.param Cfp4_out={1 / (2 * pi * fp4_out * 1Meg)}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=98.8
.param R1a_CMR=10Meg
.param fz1_CMR=2.5k
.param fp1_CMR=500k
.param gain_PSRn={pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=126
.param R1a_PSRn=1Meg
.param fz1_PSRn=180
.param fp1_PSRn=550k
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=124.76
.param R1a_PSRp=1Meg
.param fz1_PSRp=250
.param fp1_PSRp=200k
.param C0=43n C1=93n
.param C2=155n C3=353n
.param C4=590n C5=884n
.param C6=723n
.param beta_Zo_out=1.13
.param Rx_Zo_out = {100 * Zo_max_out}
.param Rdummy_Zo_out = {10 * Zo_max_out}
.param G1_Zo_out={Rx_Zo_out/(Zo_dc_out*beta_Zo_out)}
.param Zo_dc_out=100
.param Zo_max_out={Zo_dc_out}
.param GR=100
.param Cx2=28f Cx3=18f
.param Msat=23.8m Bsat=286m
.ends LTC6373
